* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.004915608459147238
Fd1_1 0 s1 V1 0.24578042295736188
Gr1_1_1 0 s1 x1_a1 0 -522184565192.6096
Gr2_1_1 0 s1 x2_a1 0 126468716625.2077
Gr3_1_1 0 s1 x3_a1 0 -67547170946.77608
Gr4_1_1 0 s1 x4_a1 0 67781884205.51906
Gr5_re_1_1 0 s1 x5_re_a1 0 10191561728.053993
Gr5_im_1_1 0 s1 x5_im_a1 0 -12063375669.95293
Gr6_1_1 0 s1 x6_a1 0 -65607063976.19412
Gr7_1_1 0 s1 x7_a1 0 3594514255.5914187
Gr8_1_1 0 s1 x8_a1 0 -1050749397.6173618
Gr9_re_1_1 0 s1 x9_re_a1 0 164597729.69110164
Gr9_im_1_1 0 s1 x9_im_a1 0 660473424.0004535
Gr10_re_1_1 0 s1 x10_re_a1 0 -5369800.010477114
Gr10_im_1_1 0 s1 x10_im_a1 0 82375897.38485973
Gr11_re_1_1 0 s1 x11_re_a1 0 124797786.94344267
Gr11_im_1_1 0 s1 x11_im_a1 0 -142956766.72393584
Gr12_1_1 0 s1 x12_a1 0 -22535189357.441566
Gr13_re_1_1 0 s1 x13_re_a1 0 574597532.946132
Gr13_im_1_1 0 s1 x13_im_a1 0 -61139628.14362518
Gr14_re_1_1 0 s1 x14_re_a1 0 5262082.629117729
Gr14_im_1_1 0 s1 x14_im_a1 0 -2054686.3572983427
Gr15_re_1_1 0 s1 x15_re_a1 0 998894338.5100546
Gr15_im_1_1 0 s1 x15_im_a1 0 -2610787353.5862846
Gr16_1_1 0 s1 x16_a1 0 17947525431.7159
Gd1_2 0 s1 p2 0 0.20980086767765474
Fd1_2 0 s1 V2 10.490043383882737
Gr1_1_2 0 s1 x1_a2 0 -33700247101557.48
Gr2_1_2 0 s1 x2_a2 0 8550948052990.825
Gr3_1_2 0 s1 x3_a2 0 -4708976801762.417
Gr4_1_2 0 s1 x4_a2 0 5183968523274.788
Gr5_re_1_2 0 s1 x5_re_a2 0 979781731548.1506
Gr5_im_1_2 0 s1 x5_im_a2 0 -895593752001.7616
Gr6_1_2 0 s1 x6_a2 0 -5607479334863.289
Gr7_1_2 0 s1 x7_a2 0 894851335068.1283
Gr8_1_2 0 s1 x8_a2 0 -799244995175.6729
Gr9_re_1_2 0 s1 x9_re_a2 0 -38082514829.54415
Gr9_im_1_2 0 s1 x9_im_a2 0 -2645132194.636802
Gr10_re_1_2 0 s1 x10_re_a2 0 -2825984037.1378946
Gr10_im_1_2 0 s1 x10_im_a2 0 -975422064.4308497
Gr11_re_1_2 0 s1 x11_re_a2 0 2813826570.5025024
Gr11_im_1_2 0 s1 x11_im_a2 0 6323181728.514294
Gr12_1_2 0 s1 x12_a2 0 1003243823244.9227
Gr13_re_1_2 0 s1 x13_re_a2 0 -893423726.7629236
Gr13_im_1_2 0 s1 x13_im_a2 0 33806232030.697273
Gr14_re_1_2 0 s1 x14_re_a2 0 -155855452.1835597
Gr14_im_1_2 0 s1 x14_im_a2 0 99125000.02516924
Gr15_re_1_2 0 s1 x15_re_a2 0 19008505208.463882
Gr15_im_1_2 0 s1 x15_im_a2 0 86929754715.92131
Gr16_1_2 0 s1 x16_a2 0 -814587900954.1449
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.430073086327347e-13
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 4.926203736634955e-13
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.1108194116143218e-12
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 2.6028852745101125e-12
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 5.5563645334054836e-12
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 95283430211.1771
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -95283430211.1771
Rp5_im_im_a1 0 x5_im_a1 5.5563645334054836e-12
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 4.645849528844799e-12
Cx7_a1 x7_a1 0 1.0
Gx7_a1 0 x7_a1 p1 0 0.07071067811865475
Fx7_a1 0 x7_a1 V1 3.5355339059327378
Rp7_a1 0 x7_a1 1.852338617569321e-11
Cx8_a1 x8_a1 0 1.0
Gx8_a1 0 x8_a1 p1 0 0.07071067811865475
Fx8_a1 0 x8_a1 V1 3.5355339059327378
Rp8_a1 0 x8_a1 2.5017661796351257e-11
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.5609963234276054e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 14923658729.033539
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -14923658729.033539
Rp9_im_im_a1 0 x9_im_a1 1.5609963234276054e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 9.370345734309997e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 14459895963.537106
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -14459895963.537106
Rp10_im_im_a1 0 x10_im_a1 9.370345734309997e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 5.319085495250884e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 13674344996.740725
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -13674344996.740725
Rp11_im_im_a1 0 x11_im_a1 5.319085495250884e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 1.607495516353161e-10
Cx13_re_a1 x13_re_a1 0 1.0
Gx13_re_a1 0 x13_re_a1 p1 0 0.1414213562373095
Fx13_re_a1 0 x13_re_a1 V1 7.0710678118654755
Rp13_re_re_a1 0 x13_re_a1 1.974551418816131e-10
Gp13_re_im_a1 0 x13_re_a1 x13_im_a1 0 10563553572.415869
Cx13_im_a1 x13_im_a1 0 1.0
Gp13_im_re_a1 0 x13_im_a1 x13_re_a1 0 -10563553572.415869
Rp13_im_im_a1 0 x13_im_a1 1.974551418816131e-10
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 7.219427975603655e-10
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 2711364795.1832657
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -2711364795.1832657
Rp14_im_im_a1 0 x14_im_a1 7.219427975603655e-10
Cx15_re_a1 x15_re_a1 0 1.0
Gx15_re_a1 0 x15_re_a1 p1 0 0.1414213562373095
Fx15_re_a1 0 x15_re_a1 V1 7.0710678118654755
Rp15_re_re_a1 0 x15_re_a1 1.453259940077608e-10
Gp15_re_im_a1 0 x15_re_a1 x15_im_a1 0 5679491920.238856
Cx15_im_a1 x15_im_a1 0 1.0
Gp15_im_re_a1 0 x15_im_a1 x15_re_a1 0 -5679491920.238856
Rp15_im_im_a1 0 x15_im_a1 1.453259940077608e-10
Cx16_a1 x16_a1 0 1.0
Gx16_a1 0 x16_a1 p1 0 0.07071067811865475
Fx16_a1 0 x16_a1 V1 3.5355339059327378
Rp16_a1 0 x16_a1 1.694347371559932e-10
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.20980086767765474
Fd2_1 0 s2 V1 10.490043383882737
Gr1_2_1 0 s2 x1_a1 0 -33700247101557.48
Gr2_2_1 0 s2 x2_a1 0 8550948052990.825
Gr3_2_1 0 s2 x3_a1 0 -4708976801762.417
Gr4_2_1 0 s2 x4_a1 0 5183968523274.788
Gr5_re_2_1 0 s2 x5_re_a1 0 979781731548.1506
Gr5_im_2_1 0 s2 x5_im_a1 0 -895593752001.7616
Gr6_2_1 0 s2 x6_a1 0 -5607479334863.289
Gr7_2_1 0 s2 x7_a1 0 894851335068.1283
Gr8_2_1 0 s2 x8_a1 0 -799244995175.6729
Gr9_re_2_1 0 s2 x9_re_a1 0 -38082514829.54415
Gr9_im_2_1 0 s2 x9_im_a1 0 -2645132194.636802
Gr10_re_2_1 0 s2 x10_re_a1 0 -2825984037.1378946
Gr10_im_2_1 0 s2 x10_im_a1 0 -975422064.4308497
Gr11_re_2_1 0 s2 x11_re_a1 0 2813826570.5025024
Gr11_im_2_1 0 s2 x11_im_a1 0 6323181728.514294
Gr12_2_1 0 s2 x12_a1 0 1003243823244.9227
Gr13_re_2_1 0 s2 x13_re_a1 0 -893423726.7629236
Gr13_im_2_1 0 s2 x13_im_a1 0 33806232030.697273
Gr14_re_2_1 0 s2 x14_re_a1 0 -155855452.1835597
Gr14_im_2_1 0 s2 x14_im_a1 0 99125000.02516924
Gr15_re_2_1 0 s2 x15_re_a1 0 19008505208.463882
Gr15_im_2_1 0 s2 x15_im_a1 0 86929754715.92131
Gr16_2_1 0 s2 x16_a1 0 -814587900954.1449
Gd2_2 0 s2 p2 0 0.006480694125694146
Fd2_2 0 s2 V2 0.3240347062847073
Gr1_2_2 0 s2 x1_a2 0 -772931651652.8365
Gr2_2_2 0 s2 x2_a2 0 190229291182.95087
Gr3_2_2 0 s2 x3_a2 0 -102719764470.81671
Gr4_2_2 0 s2 x4_a2 0 106684505132.58589
Gr5_re_2_2 0 s2 x5_re_a2 0 17620645954.286198
Gr5_im_2_2 0 s2 x5_im_a2 0 -18773191786.239178
Gr6_2_2 0 s2 x6_a2 0 -107914487137.90666
Gr7_2_2 0 s2 x7_a2 0 10553038704.848038
Gr8_2_2 0 s2 x8_a2 0 -7332868439.401156
Gr9_re_2_2 0 s2 x9_re_a2 0 -141601569.300921
Gr9_im_2_2 0 s2 x9_im_a2 0 618266649.9954982
Gr10_re_2_2 0 s2 x10_re_a2 0 -27601144.0566001
Gr10_im_2_2 0 s2 x10_im_a2 0 71802351.42569101
Gr11_re_2_2 0 s2 x11_re_a2 0 143247675.09648055
Gr11_im_2_2 0 s2 x11_im_a2 0 -87761620.13657367
Gr12_2_2 0 s2 x12_a2 0 -13977346144.946663
Gr13_re_2_2 0 s2 x13_re_a2 0 543279683.2237476
Gr13_im_2_2 0 s2 x13_im_a2 0 205562358.9188799
Gr14_re_2_2 0 s2 x14_re_a2 0 3850756.358382245
Gr14_im_2_2 0 s2 x14_im_a2 0 -1216764.4453786367
Gr15_re_2_2 0 s2 x15_re_a2 0 1149541595.2017317
Gr15_im_2_2 0 s2 x15_im_a2 0 -1841283757.9419372
Gr16_2_2 0 s2 x16_a2 0 10971551799.235071
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.430073086327347e-13
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 4.926203736634955e-13
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.1108194116143218e-12
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 2.6028852745101125e-12
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 5.5563645334054836e-12
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 95283430211.1771
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -95283430211.1771
Rp5_im_im_a2 0 x5_im_a2 5.5563645334054836e-12
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 4.645849528844799e-12
Cx7_a2 x7_a2 0 1.0
Gx7_a2 0 x7_a2 p2 0 0.07071067811865475
Fx7_a2 0 x7_a2 V2 3.5355339059327378
Rp7_a2 0 x7_a2 1.852338617569321e-11
Cx8_a2 x8_a2 0 1.0
Gx8_a2 0 x8_a2 p2 0 0.07071067811865475
Fx8_a2 0 x8_a2 V2 3.5355339059327378
Rp8_a2 0 x8_a2 2.5017661796351257e-11
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.5609963234276054e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 14923658729.033539
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -14923658729.033539
Rp9_im_im_a2 0 x9_im_a2 1.5609963234276054e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 9.370345734309997e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 14459895963.537106
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -14459895963.537106
Rp10_im_im_a2 0 x10_im_a2 9.370345734309997e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 5.319085495250884e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 13674344996.740725
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -13674344996.740725
Rp11_im_im_a2 0 x11_im_a2 5.319085495250884e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 1.607495516353161e-10
Cx13_re_a2 x13_re_a2 0 1.0
Gx13_re_a2 0 x13_re_a2 p2 0 0.1414213562373095
Fx13_re_a2 0 x13_re_a2 V2 7.0710678118654755
Rp13_re_re_a2 0 x13_re_a2 1.974551418816131e-10
Gp13_re_im_a2 0 x13_re_a2 x13_im_a2 0 10563553572.415869
Cx13_im_a2 x13_im_a2 0 1.0
Gp13_im_re_a2 0 x13_im_a2 x13_re_a2 0 -10563553572.415869
Rp13_im_im_a2 0 x13_im_a2 1.974551418816131e-10
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 7.219427975603655e-10
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 2711364795.1832657
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -2711364795.1832657
Rp14_im_im_a2 0 x14_im_a2 7.219427975603655e-10
Cx15_re_a2 x15_re_a2 0 1.0
Gx15_re_a2 0 x15_re_a2 p2 0 0.1414213562373095
Fx15_re_a2 0 x15_re_a2 V2 7.0710678118654755
Rp15_re_re_a2 0 x15_re_a2 1.453259940077608e-10
Gp15_re_im_a2 0 x15_re_a2 x15_im_a2 0 5679491920.238856
Cx15_im_a2 x15_im_a2 0 1.0
Gp15_im_re_a2 0 x15_im_a2 x15_re_a2 0 -5679491920.238856
Rp15_im_im_a2 0 x15_im_a2 1.453259940077608e-10
Cx16_a2 x16_a2 0 1.0
Gx16_a2 0 x16_a2 p2 0 0.07071067811865475
Fx16_a2 0 x16_a2 V2 3.5355339059327378
Rp16_a2 0 x16_a2 1.694347371559932e-10
.ENDS s_equivalent
